Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am scared of something"
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note 
dated ___ and Dr. ___ staff consultation note 
dated ___. 
. 
Briefly, this is a ___ year old, single, employed ___ 
refugee man, with reported history of extensive trauma (tortured 
during imprisonment in ___ for 59 days), daily cannabis use, 
no formal psychiatric history or suicide attempts, who presented 
to ___ ED via EMS due to paranoia. 
. 
Upon initial interview, patient reported was here because he 
felt scared and believes the FBI and CIA were after him, 
although he had no idea why they would be after him. Patient 
reported that he was born in ___ and moved with his family 
to ___ when he was young. Stated that since ___ (at the age 
of ___) he became involved in politics and protested against the 
___ government resulting in him being shunned by his 
community and family. In ___ he was arrested and has been 
arrested for a total of 4 times. Patient was given refugee 
status in ___ by an international organization and came to 
the ___ in ___. When he arrived to the ___, he was questioned by 
the FBI and has been questioned by the FBI numerous time, with 
last time being 6 months ago. Patient reportedly received his 
green card 2 days prior to presentation. 
. 
Mr. ___ reported he had been doing well until four months 
ago after listening to ___ album, 444, which resonated with 
him. Since then he has been suffering from insomnia, constant 
flashbacks. He reports that everything starts with a 4 in his 
life (he was in jail 4 times, this started 4 months ago and he 
tried to graduate high school 4 times). Patient also reported 
difficulty with memory, difficulty concentrating and visual 
hallucinations of "future war." Denied AH, SI/HI. Denied low 
mood, feelings of hopelessness/helplessness/worthlessness. 
Patient also reported that on the day 
prior to presentation he and his friend, who is an ___ 
refugee, took an impulsive trip to ___ to celebrate the patient 
getting his green card. This morning, the friend asked him to 
join him to come to an appointment. The friend was very vague 
about the purpose of the appointment and patient was asked to 
wait in the car or cafeteria. Patient saw the meeting and noted 
that there was FBI paperwork and determined that his friend was 
sharing information with the FBI about their trip to ___ 
yesterday as part of an investigation on the patient. He also 
reports that he saw lots of cash in the friend's car which was 
"scary". He reports that he does not trust this friend and does 
not want this writer to call him. 
.
On interview with Dr. ___, patient was noted to be a 
limited historian and was notably ruminative about feeling 
suspicious and paranoid about others, describing a "felt energy" 
which no one else can feel. Reported he was feeling others were 
colluding with the FBI and  CIA to come after him and then told 
a
loose, rambling narrative about "feeling music that I have never 
felt before," and experiencing an expansive mood. Noted to be 
restless on examination with expansive affect, with accelerated 
thought process, tangential on examination with looseness of 
associations. 
. 
Per collateral obtained from the patient's case manager at 
___ ___, who had 
known him for years but was no longer working with him: She 
reported the patient is high functioning at baseline and has 
been working for the organization ___ and attending 
events. He was originally taken out of prison in ___ by 
___ and ___ International who gave him 48 hours 
to pack his things and move to ___. He later came to ___ 
as a political refugee in ___ and was questioned by the FBI 
upon entrance and they continued to question him for a while. He 
was eligible for a green card in ___ but he didn't get it
until two days ago. He was at the survivors of torture program 
at ___ but stopped going and stopping taking his medications 
(unclear dx and medications). This year he has been 
intermittently "self-medicating" by binge-drinking and then 
going on "health sprees" by doing cleanses and going to the gym 
obsessively. ___ called ___ today stating that he needed the 
president's phone number and was extremely perseverative. He was 
under the belief that his friend, who is an ___ refugee is 
working for the FBI. He has been getting increasingly paranoid 
for the past several months. He has been fixated on rap music 
and its meaning.
.
On the phone today, patient mentioned being scared and having 
thoughts of wanting to return to ___ to get away from the 
FBI. ___ is concerned that patient has the ability and means 
to do this and that he may not be able to return to the ___ if he 
goes to ___ even though living in ___ is what he has 
wanted for all this time and he finally got his green card. 
Patient also
somewhat impulsively took a day trip to ___ yesterday which is 
unlike him.  
. 
ED Course: Patient was agitated in the ED, noted to be standing 
in front of the door to his room with four staff members 
attempting to calm him down. Patient stated he needed to leave 
the hospital and go to court, stating, "I am not safe in this 
hospital, I need to go to a different hospital." Patient asked 
the psychiatry resident to "tell everyone" he needs to leave and 
wanted to speak to the "doctor responsible for keeping me here 
against my will." Stated that everyone in the hospital will get 
into trouble if he brings his lawyer in, stating, "You don't 
want my people to come here..." Patient was seen later in the 
day for escalating agitation and received a chemical restraint 
with Haldol 5 mg IM/Ativan 2 mg IM 
. 
Patient interviewed in team and was notably pleasant with this 
interviewer but had a difficult time relaying a completely 
coherent history. He reported he had been doing "great" but then 
went on to state that although "not much" had been going on that 
"everyone in my life had been dealing with some kind of 
depression." Reported he came to the ED because he was feeling a 
"little scared." He then went on to state that he wanted to 
leave "because I have been here four business days." He admitted 
to calling 911 and when asked why he stated, "I came to the ___ 
in ___ as a refugee." He stated the FBI "Had bothered me 
too many times... they questioned me, saying they wanted to have
coffee and tea with me, asking me about politics and I wasn't 
feeling comfortable." Patient reported this had been going on 
for the past ___ years and stated that on the day of presentation 
he had been out with his best friend, "I found out he was in a 
meeting with the FBI about me," reporting it made him feel
depressed and scared, "if you don't trust me, why would you let 
me in this country?" Reported he doesn't feel trusted in the ___, 
and that it is "unwelcoming in this country." 
. 
Mr. ___ reported that he currently lives in ___ with 
his roommates, who are also refugees. Stated he spends his time 
working, "taking care of himself," and going shopping. Reported 
he was currently working at the ___ and that had been 
going well. Patient denied depressed mood, stating he has been 
feeling "very good" for the past four months. He confirmed that 
four months ago he was listening to ___ 444 record, and 
stated, "this changed my thinking-- I learned that you shouldn't 
let someone old you down." He then went on to talk about "always 
facing god... I have my own feeling with god." He then talked 
about "following the number four... it's the number where I find 
links-- 42 was ___ number and he was the first 
black man to play baseball, I go back and see ___ and 
everything in politics is planned that way, ___.. 
I'm trying to understand this country." He then went on to state 
that he had died four times, had been in four countries, that
there are four letters in his first name and that he speaks four 
languages (___) and that he has 
four brothers. Stated that he had a child pass away ___ years and 
4 months ago. Denied frank grandiosity, but stated that "I'm 
feeling more strong than yesterday and stronger everyday... my 
confidence is special." 
. 
On psychiatric review of systems, patient denied depressed mood, 
endorsed "good" sleep, approximately ___ hours per night. 
Reported good energy and concentration, "beautiful" appetite. 
Denied suicidal ideation or homicidal ideation. Denied AVH. 
Denied history of decreased need for sleep, hypersexuality. 
Denied anxiety on my examination but did state that he had
history of flashbacks in the past but denied they were bothering 
him at this time. Reported history of nightmares of the FBI out 
to get him. Denied alcohol use but admitted to cannabis use, 
stating he smokes it about $25 per week. 

 
Past Medical History:
Past Psychiatric History 
- Prior diagnoses: denies 
- Hospitalizations: denies 
- Current treaters and treatment: none
- Medication and ECT trials: Trazodone (groggy)
- Suicide attempts: denies
- Self-injurious behavior: denies
- Harm to others: denies
- Access to weapons: denies
. 
Past Medical History: 
- Back and shoulder pain
+ head injuries from being tortured in prison
Denies history of seizures.

 
Social History:
Substance use history:
 - Alcohol: denies alcohol x 4 months, used to drink ___sleep prior
 - Tobacco: 1.5 ppd
 - Caffeine: 4 shots of espresso daily
 - Other illicit substances and IVDU: MJ daily x 4 months 
(denies daily use on my exam) 
. 
Personal and Social History: Per OMR, patient. Born and raised 
in ___ to a ___ family as the oldest of ___ with 4 
brothers and 2 sisters. He reported growing up in ___ was 
difficult, as he was treated like a "second class citizen." 
Stated his father and mother both worked for the ___ as 
___. Patient reported that he began protesting the 
___ regime "because I did not feel right not being a free 
man." Stated he did not
complete high school due to incarcerations for protesting. 
Reported he had gone on a hunger strike for 12 days, which was a 
human rights violation. Stated that the ___ Times got a hold of 
his story, and he was able to get out of the ___. 
Patient also reported that in ___ he had been dating a girl 
when he as
about ___ years old but that her father would not let her marry 
him. Patient reported she became pregnant and her father forced 
her to have an abortion. Patient reportedly came to the ___ in 
___ as noted above. Denies legal issues since arriving to the 
___ and received his green card 2 days prior to presentation. 
Stated he had been dating a girl until recently and that she had 
become pregnant and had an abortion as well. When asked how this 
affected him, he stated, "the lord giveth and the lord taketh." 
Currently reportedly working in ___ with roommates and working 
at ___, although his former case manager states he was 
working at the same ___ as her. Denies access to guns

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
 - History of psychiatric disorders: denies
 - History of suicide attempts: denies
 - History of substance use: denies
 
Physical Exam:
VITAL SIGNS:
T98.4 BP:113/68 HR:84 RR:18 SpO2:99  

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Days of the week backwards with 0 errors.
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: 4 out of 4 registration, 4 out of 4 recall after 5 ___ grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "as the grass something going on the other side 
is
more green", and "you cannot judge a book by its cover "as "you
cannot know what is inside book you need to look inside to
understand"
-Visuospatial: Not assessed
-Language: Native ___ speaker, speaks ___ well, however
does report that he is more comfortable with aerobic and 
___.
No paraphasic errors, appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
-Behavior: Sitting up in interview chair, appropriate eye
contact, psychomotor agitation of bouncing his legs.
-Attitude: Cooperative, engaged, friendly for the most part,
however does become more irritable when talking about staying in
the hospital or usage of his electronics to speak with his
family.
-Mood: "I am great "
-Affect: Flat affect, full range, labile, at times not congruent
with mood.
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: Patient shares concerns for the FBI and CIA he 
also
shares ideas of reference that the television and the radio are
sharing information related to the conditions in the ___: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

Mental Status Exam: 
-Appearance: man appearing stated age, well groomed, wearing
grey sweater and sweatpants, in no apparent distress
-Behavior: Sitting up in interview chair, intense eye
contact at times, speech rapid but interruptible, no psychomotor 
agitation 
-Attitude: Cooperative, engaged, friendly, 
-Mood: "fantastic"
-Affect: expansive affect, mood congruent, 
-Speech: Normal rate, volume, and tone
-Thought process: Linear, at times circumstantial,  no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No longer endorsing preoccupations with being 
monitored by government  
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: fair 

Discharge Examination: 
VS: 98.0 117/72 85 16 100%
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody
M: "good" 
A: hyperthymic, inappropriate to situation 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 
 
Pertinent Results:
___: Na: 141 
___: K: 4.1
___: Cl: 101
___: CO2: 28
___: BUN: 10
___: Creat: 0.9
___: Glucose: 89 

___: WBC: 6.7
___: RBC: 5.25
___: HGB: 17.1
___: HCT: 49.0
___: MCV: 93
___: MCH: 32.6*
___: MCHC: 34.9
___: RDW: 12.0
___: Plt Count: 180
___: Neuts%: 76.8*
___: Lymphs: 12.6*
___: MONOS: 9.3
___: Eos: 0.6*
___: BASOS: 0.4
___: AbsNeuts: 5.12

___: Benzodiazepine: 
___: Barbiturate: NEG
___: Opiate: NEG 
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG 

 
Brief Hospital Course:
This is a ___ year old single, employed ___ male refugee, 
with reported history of extensive trauma (tortured during 
imprisonment in ___ for 59 days), daily cannabis use, no 
formal psychiatric history or suicide attempts, who presented to 
___ ED via EMS due to paranoia. 
. 
History and presentation notable for a profound history of 
reported trauma with numerous incarcerations for political 
activity and immigration to ___ in ___ but 
without formal psychiatric history until recently with patient 
reporting approximately 4 months of symptoms after listening to 
___ ___ album. History is concerning for underlying and 
paranoia that the FBI and CIA are out to get him (patient 
reportedly has been questioned by the FBI in the past but 
patient is now paranoid his friends are being questioned) with 
thoughts of fleeing to ___ in order to escape this perceived 
persecution (unable to confirm his story at this time). 
Collateral from his former case manager concerning for 
increasing paranoia with patient recently perseverting on 
obtaining the president's phone number, impulsivity (going to 
___ with his friend without apparently
planning this trip), which appears to be out of character for 
him. ED course notable for expansive mood with periods of 
irritability and agitation, requiring chemical restraint. 
. 
Mental status examination on admission was concerning for mania 
with psychotic features-- patient appears well groomed but is 
notably hyperthymic and expansive with rapid speech, thought 
process that is notable for derailments, tangentiality, 
looseness of associations and thought content that is concerning 
for ideas of reference and paranoid delusions (that likely have 
some basis in reality). 
 . 
Diagnostically, given his young age and presentation, I am 
concerned for an affective psychosis at this time, particularly 
BPAD Type I, manic, with psychotic features. However, his 
cannabis use may very well be contributing to his current 
presentation, and I cannot rule out substance induced 
psychosis/mania at this time. Given his young age and good 
health, an underlying medical condition is unlikely to be 
contributing to his current presentation. Given lack of negative 
symptoms, apparent lack of prodromal phase, I think that a 
primary psychotic disorder such as schizophrenia is further down 
on the differential. Of note, although the patient has a history 
of trauma and PTSD symptoms, he does not appear anxious, 
dysphoric, or distressed on my examination-- I do not believe is
presentation is due to untreated PTSD or anxiety symptoms, 
although certainly he is at high risk for anxiety disorders. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___,
upon admission, he declined to sign a conditional voluntary 
form, stating he did not want to be in the hospital. He 
maintained his safety throughout his hospitalization on 15 
minute checks and did not require physical or chemical 
restraints. Given lack of evidence of threat to self, others, or 
inability to care for self (with patient able to attend to ADL's 
independently), we did not feel he met criteria to file a 7&8b, 
particularly as he was willing to follow up with outpatient 
treaters. 
. 

#. BPAD: currently manic, with psychotic features
- Patient declined additional medical workup including, B12, 
folate, TSH, RPR, LFT's, metabolic panel, stating he had already 
had enough blood drawn. 
- After discussion of the risks and benefits, we offered the 
patient risperidone 1 mg po qhs and 1 mg po tid prn agitation in 
addition to Ativan 0.5 mg po prn. However, patient consistently 
declined this medication, stating he did not feel he needed it. 
Noted to somewhat paranoid during his hospitalization, stating 
he felt his friend was forced by the FBI to put cameras in his 
room and that his friend was recording his conversations. Mental 
status examinations were notable for ongoing paranoia, 
preoccupation with the number "4" with magical thinking 
surrounding this number, cheerful but intense affect and 
consistent denial of suicidal ideation or thoughts of self harm. 

- Of note, patient was seen by Dr. ___, medical 
director of the inpatient unit and Dr. ___, vice chair 
of the department of the psychiatry. Both clinicians agreed with 
likely diagnosis of psychosis and paranoia with assessment that 
it would be reasonable to discharge with referral to outpatient 
supports upon the expiration of his ___. 
- On day of discharge, the patient reported he was looking 
forward to returning home and following up with physical therapy 
for a shoulder injury. Denied SI/HI, AVH on examination with 
thought process that was linear, goal and future oriented. 
. 
#. PTSD: with patient reporting history of flashbacks and 
nightmares, unclear if he has truly been diagnosed with this in 
the past
- Patient declined medications during this admission with no 
complaints of PTSD symptoms. 
. 
#. Cannabis use: see above, patient inconsistent in how much MJ 
he is using
- Patient as educated on the deleterious effects of cannabis on 
his mental health and stated he was planning on abstaining from 
cannabis once discharged, as he felt this was contributing to 
his paranoia. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nicotine Polacrilex 1 STCK PO Q1H:PRN nicotine craving  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Affective Disorder, with psychotic features
Cannabis use disorder 

 
Discharge Condition:
VS: 98.0    117/72    85    16    100%
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody
M: 'good' 
A: hyperthymic, inappropriate to situation 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
.
It was a pleasure to have worked with you, and we wish you the 
best of health.

We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings near your area:
___

 
Followup Instructions:
___